US08426447B2
To a solution of 2-(tert-butylamino)-7′-(pyrimidin-5-yl)-5H-spiro[thiazole-4,9′-xanthen]-2′-ol (0.075 g, 0.179 mmol) in DMF (2 mL) was added cesium carbonate (0.175 g, 0.538 mmol) followed by 1-iodo-2,2-dimethylpropane (0.048 mL, 0.358 mmol). The mixture was heated to 100° C. After 6 hrs the mixture was cooled to RT, diluted with EtOAc, and washed with water and brine. The organic fraction was concentrated in vacuo and purified by silica gel chromatography using 40-60% Hexanes:EtOAc to afford N-tert-butyl-2′-(neopentyloxy)-7′-(pyrimidin-5-yl)-5H-spiro[thiazole-4,9′-xanthen]-2-amine as an off-white foam. MS: MH+=489.2.

reactant | 2-(tert-butylamino)-7′-(pyrimidin-5-yl)-5H-spiro[thiazole-4,9′-xanthen]-2′-ol | 0.179 mmol, 0.075 g | C(C)(C)(C)NC=1SCC2(C3=CC(=CC=C3OC=3C=CC(=CC23)O)C=2C=NC=NC2)N1 | C23H22N4O2S
reactant | cesium carbonate | 0.538 mmol, 0.175 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-iodo-2,2-dimethylpropane | 0.358 mmol, 0.048 mL | ICC(C)(C)C | C5H11I
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-tert-butyl-2′-(neopentyloxy)-7′-(pyrimidin-5-yl)-5H-spiro[thiazole-4,9′-xanthen]-2-amine | C(C)(C)(C)NC=1SCC2(C3=CC(=CC=C3OC=3C=CC(=CC23)OCC(C)(C)C)C=2C=NC=NC2)N1 | C28H32N4O2S
